US04659516
Glycine N-n-heptylamide
As above from glycine and benzyl chloroformate (N-benzyloxycarbonylglycine has m.p. 119°-121° C.), then triethylamine, ethyl chloroformate and n-heptylamine.

reactant | glycine | NCC(=O)O | C2H5NO2
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | n-heptylamine | C(CCCCCC)N | C7H17N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Glycine N-n-heptylamide | C(CCCCCC)NC(CN)=O | C9H20N2O
